US07238724B2
N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-prolinamide
N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-proline was mixed with triethylamine (0.426 mL, 3.25 mmol) in THF (4 mL) and cooled to 0° C. followed by the addition of ethyl chloroformate (0.287 mL, 3.0 mmol). After 20 minutes, 0.5 M ammonia in dioxane (6 mL) was added. After 4 hours, the mixture was concentrated, and the residue was partitioned between 1 N HCl and ethyl acetate. The organic extracts were washed with saturated NaHCO3, dried (Na2SO4), filtered, concentrated under reduced pressure and purified by flash chromatography (80% to 100% ethyl acetate/hexane) to provide the titled compound. MS (ESI) m/z 356 (M+H)+.

reactant | N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-proline | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CC[C@@H]1CC | C18H32N2O5
reactant | triethylamine | 3.25 mmol, 0.426 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.0 mmol, 0.287 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 0.5 M | N | H3N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CC[C@@H]1CC | C18H33N3O4
